US06011050
2-[1-(3-Ethoxy-4-methoxyphenyl)-2-methylsulfonylethyl]-4-dimethylaminoisoindoline-1,3-dione was prepared by the procedure of Example 8 from 1-(3-ethoxy-4-methoxyphenyl)-2-methylsulfonylethylamine (572 mg, 2.09 mmol) and 3-dimethylaminophthalic anhydride (400 mg, 2.09 mmol) in acetic acid (20 mL). The product was obtained as a yellow solid (740 mg, 80% yield): mp, 94.0-96.0° C.; 1H NMR (CDCl3) δ 1.46 (t, J=7.0 Hz, 3H, CH3), 2.82 (s, 3H, CH3), 3.08 (s, 6H, CH3), 3.76-3.84 (m, 1H, CHH), 3.82 (s, 3H, CH3), 4.11 (q, J=7.0 Hz, 2H, CH2), 4.54 (dd, J=9.9, 14.5 Hz, 1H, CHH), 5.88 (dd, J=4.8, 9.9 Hz, 1H, NCH), 6.81-6.84 (m, 1H, Ar), 7.04-7.15 (m, 3H, Ar), 7.23-7.27 (m, 1H, Ar), 7.48 (dd, J=7.3, 8.3 Hz, 1H, Ar); 13C NMR (CDCl3) δ 14.68, 41.47, 43.39, 48.74, 55.20, 55.92, 64.43, 111.34, 112.54, 113.78, 114.41, 120.47, 122.09, 129.97, 134.32, 134.81, 148.46, 149.44, 150.42, 167.06, 168.19; Anal Calcd for C22H26NO6S: C, 59.14; H, 5.91; N, 6.27. Found: C, 59.14; H, 5.91; N, 6.10.

reactant | 1-(3-ethoxy-4-methoxyphenyl)-2-methylsulfonylethylamine | 2.09 mmol, 572 mg | C(C)OC=1C=C(C=CC1OC)C(CS(=O)(=O)C)N | C12H19NO4S
reactant | 3-dimethylaminophthalic anhydride | 2.09 mmol, 400 mg | CN(C1=C2C(C(=O)OC2=O)=CC=C1)C | C10H9NO3
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
product | 2-[1-(3-Ethoxy-4-methoxyphenyl)-2-methylsulfonylethyl]-4-dimethylaminoisoindoline-1,3-dione | C(C)OC=1C=C(C=CC1OC)C(CS(=O)(=O)C)N1C(C2=CC=CC(=C2C1=O)N(C)C)=O | C22H26N2O6S
